US05801008
(1) Synthesis of 5-amino-3-(benzothiophen-2-yl)-1-phenylpyrazole-4-carbonitrile
Using 2.56 g (10 mmol) of (benzothiophen-2-yl) (methylthio)methylenepropanedinitrile and 1.1 g (10 mmol) of phenylhydrazine, the entitled product having a melting point of 260° to 262° C. was obtained in the same manner as in Example 1-(1).

reactant | (benzothiophen-2-yl) (methylthio)methylenepropanedinitrile | 10 mmol, 2.56 g | S1C(=CC2=C1C=CC=C2)C(SC)=C(C#N)C#N | C13H8N2S2
reactant | phenylhydrazine | 10 mmol, 1.1 g | C1(=CC=CC=C1)NN | C6H8N2
product | 5-amino-3-(benzothiophen-2-yl)-1-phenylpyrazole-4-carbonitrile | NC1=C(C(=NN1C1=CC=CC=C1)C=1SC2=C(C1)C=CC=C2)C#N | C18H12N4S
